US06821974B2
A 10 parts 1-hydrazinophthalazine HCL (0.05 Molar) in 50% methanol-water are mixed with 1 part 2-butanone. After evaporation of solvents, 1-hydrazinophthalazine 2-butanone hydrazone is crystallized from ethanol-heptane (78% yield). [The Journal of Pharmacology and Experimental Therapeutics 205 (2): 418-425 (1978)].

reactant | 1-hydrazinophthalazine HCL | 0.05 Molar | Cl.N(N)C1=NN=CC2=CC=CC=C12
reactant | 2-butanone | CC(CC)=O | C4H8O
solvent | methanol water | CO.O
product | ethanol heptane | 78% yield | C(C)O.CCCCCCC | InChI=1S/C7H16.C2H6O/c1-3-5-7-6-4-2;1-2-3/h3-7H2,1-2H3;3H,2H2,1H3
